US06573263B2
2-(4-Methylphenyl)ethanamidine Hydrochloride
10.8 g (201 mmol) of ammonium chloride are suspended under argon in 200 ml of dry toluene and the suspension is cooled to 0° C. 100 ml of a 2M solution of trimethylaluminium in hexane are added dropwise and the mixture is stirred at room temperature until the evolution of gas is complete. After addition of 13.2 g (100 mmol) of 4-methylbenzyl cyanide, the reaction mixture is stirred overnight at 80° C. (bath). The cooled reaction mixture is treated with 35 ml of methanol and then stirred at room temperature for a further 1 h. The solid is then first filtered off with suction, and the filter cake is washed several times with methanol. The filtrate is concentrated, resuspended in dichloromethane/methanol 10/1, and the insoluble solid is filtered off. The solvent is then again evacuated from the filtrate in vacuo.

reactant | ammonium chloride | 201 mmol, 10.8 g | [Cl-].[NH4+]
reactant | trimethylaluminium | C[Al](C)C
reactant | 4-methylbenzyl cyanide | 100 mmol, 13.2 g | CC1=CC=C(CC#N)C=C1 | C9H9N
reactant | methanol | 35 ml | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Methylphenyl)ethanamidine Hydrochloride | Cl.CC1=CC=C(C=C1)CC(=N)N | InChI=1S/C9H12N2.ClH/c1-7-2-4-8(5-3-7)6-9(10)11;/h2-5H,6H2,1H3,(H3,10,11);1H
